US04147793
2,4'-Dichloroacetophenone (0.03 mol) and 1,2,4-triazole (0.03 mol) were suspended in acetonitrile (50 ml) and cooled to -20°. Triethylamine (0.03 mol) was added dropwise with stirring. After stirring at -20° for 2 hours, the mixture was poured into water, and the product filtered off, washed with water, dried and crystallised from toluene to give pale yellow needles of 2-(1,2,4-triazol-1-yl)-4'-chloroacetophenone, m.p. 151°-3°.

reactant | 2,4'-Dichloroacetophenone | 0.03 mol | ClCC(=O)C1=CC=C(C=C1)Cl | C8H6Cl2O
reactant | 1,2,4-triazole | 0.03 mol | N1N=CN=C1 | C2H3N3
reactant | Triethylamine | 0.03 mol | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(1,2,4-triazol-1-yl)-4'-chloroacetophenone | N1(N=CN=C1)CC(=O)C1=CC=C(C=C1)Cl | C10H8ClN3O
